US07834204B2
(2) Synthesis of (1,1,3,6,8,8-hexamethyl-1H,8H-dicyclopenta[b,h]fluorenyl)(cyclopentadienyl)di-p-tolylmethane
To a 200-ml two-neck flask equipped with a magnetic stirrer, a three-way cock and a 50 ml dropping funnel, 749 mg (2.29 mmol) of 1,1,3,6,8,8-hexamethyl-1H,8H-dicyclopenta[b,h]fluorene and 30 ml of tetrahydrofuran were charged under nitrogen atmosphere. 1.56 ml (2.43 mmol) of 1.56 mol/l n-butyllithium/hexane solution was gradually added thereto, while cooling it in an ice water bath, and the mixture was stirred at room temperature for 6.5 hours. 718 mg (2.78 mmol) of 6,6-di-p-tolylfulvene dissolved in 30 ml of tetrahydrofuran in advance was gradually added thereto over 20 minutes using the dropping funnel, while cooling it in a methanol/dry ice bath. The temperature of the reaction solution was gradually elevated back to room temperature, and the solution was stirred at room temperature for 20 hours. 50 ml of 1 N hydrochloric acid was gradually added thereto, and 50 ml of diethyl ether was further added to the mixture. The organic layer was separated, washed twice with 50 ml of water, once with 50 ml of saturated solution of salt. After the solution was dried over magnesium sulfate, the solvent was distilled off, and the obtained product was purified by column chromatography. The production quantity was 397 mg (0.679 mmol), and the yield was 29.6%. Identification was performed by 1H-NMR spectrum and FD-MS spectrum. The measurement results are shown as follows.

reactant | 1,1,3,6,8,8-hexamethyl-1H,8H-dicyclopenta[b,h]fluorene | 2.29 mmol, 749 mg | CC1(C=C(C=2C=C3C=4C=C5C(=CC4CC3=CC21)C(C=C5C)(C)C)C)C | C25H26
reactant | n-butyllithium hexane | 2.43 mmol, 1.56 mol/l, 1.56 ml | C(CCC)[Li].CCCCCC
reactant | 6,6-di-p-tolylfulvene | 2.78 mmol, 718 mg | C1(=CC=C(C=C1)C(=C1C=CC=C1)C1=CC=C(C=C1)C)C | C20H18
reactant | hydrochloric acid | 1 N, 50 ml | Cl | ClH
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
product | (1,1,3,6,8,8-hexamethyl-1H,8H-dicyclopenta[b,h]fluorenyl)(cyclopentadienyl)di-p-tolylmethane | yield was 29.6% | CC1(C(=C(C=2C=C3C=4C=C5C(=CC4CC3=CC21)C(C=C5C)(C)C)C)C(C5=CC=C(C=C5)C)(C5=CC=C(C=C5)C)C5C=CC=C5)C | C45H44
